US09376438B2
Into a 50-mL round-bottom flask, was placed a solution of 3-[2-[4-amino-3-(4-phenoxyphenyl)-1H-pyrazolo[3,4-d]pyrimidin-1-yl]ethyl]-1,3-thiazolidine-2,4-dione (100 mg, 0.22 mmol, 1.00 equiv) in ethanol (20 mL) and benzaldehyde (47 mg, 0.44 mmol, 1.98 equiv) and piperidine (479.5 mg, 5.63 mmol, 25.14 equiv) were added. The resulting solution was stirred for 12 h at 70° C. in an oil bath. The resulting mixture was concentrated under vacuum. The residue was applied onto a silica gel column and eluted with dichloromethane/methanol (100/1) to give 31 mg (24%) of 3-[2-[4-amino-3-(4-phenoxyphenyl)-1H-pyrazolo[3,4-d]pyrimidin-1-yl]ethyl]-5-(phenylmethylidene)-1,3-thiazolidine-2,4-dione as a light yellow solid. LC-MS: (ES, m/z): 535 (M+H)

reactant | 3-[2-[4-amino-3-(4-phenoxyphenyl)-1H-pyrazolo[3,4-d]pyrimidin-1-yl]ethyl]-1,3-thiazolidine-2,4-dione | 0.22 mmol, 100 mg, 1.00 equiv | NC1=C2C(=NC=N1)N(N=C2C2=CC=C(C=C2)OC2=CC=CC=C2)CCN2C(SCC2=O)=O | C22H18N6O3S
reactant | benzaldehyde | 0.44 mmol, 47 mg, 1.98 equiv | C(C1=CC=CC=C1)=O | C7H6O
reactant | piperidine | 5.63 mmol, 479.5 mg, 25.14 equiv | N1CCCCC1 | C5H11N
solvent | ethanol | 20 mL | C(C)O | C2H6O
product | 3-[2-[4-amino-3-(4-phenoxyphenyl)-1H-pyrazolo[3,4-d]pyrimidin-1-yl]ethyl]-5-(phenylmethylidene)-1,3-thiazolidine-2,4-dione | 31 mg, 24% | NC1=C2C(=NC=N1)N(N=C2C2=CC=C(C=C2)OC2=CC=CC=C2)CCN2C(SC(C2=O)=CC2=CC=CC=C2)=O | C29H22N6O3S
